US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-METHYLPHENYL]-2-METHYLPROPANAMIDE
Example 33 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-2-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 7.49 (d, 1H, J=8.0 Hz), 7.35–7.19 (m, 11H), 7.09–7.02 (m, 3H), 4.90 (s, 1H), 3.41 (dd, 2H, J=5.6, 11.6 Hz), 2.99 (d, 2H, J=12.8 Hz), 2.72 (m, 1H), 2.59 (m, 1H), 2.43 (t, 2H, J=6.4 Hz), 2.19 (s, 3H), 2.06–2.00 (m, 2H), 1.75–1.60 (m, 6H), 1.30 (d, 6H, J=6.8 Hz); ESMS m/e: 512.5 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-2-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C(=C(C=CC1)NC(C(C)C)=O)C | C19H31N3O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-METHYLPHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C(=C(C=CC1)NC(C(C)C)=O)C)C1=CC=CC=C1 | C33H41N3O2
